US07989457B2
A solution of (3-methyl-4′-trifluoromethyl-biphenyl-4-yl)-methanol (1.613 g, 6.060 mmol) in dimethylsulfoxide (DMSO, 12.0 mL) is treated with Et3N (5.50 mL, 39.460 mmol) and pyridine-sulfur trioxide (2.902 g, 18.235 mmol) in a cold water bath. The bath is removed after 3 min. and the reaction is stirred overnight. The reaction mixture is poured into H2O (50 mL) and extracted with EtOAc (3×50 mL). Combined organic extracts are dried over MgSO4, filtered, and conc. The residue is loaded onto silica gel and eluted with hexanes using a gradient from 5% EtOAc to 33% EtOAc to provide 3-methyl-4′-trifluoromethyl-biphenyl-4-carbaldehyde (1.221 g, 76%) as white crystals.

reactant | (3-methyl-4′-trifluoromethyl-biphenyl-4-yl)-methanol | 6.060 mmol, 1.613 g | CC=1C=C(C=CC1CO)C1=CC=C(C=C1)C(F)(F)F | C15H13F3O
reactant | Et3N | 39.460 mmol, 5.50 mL | CCN(CC)CC | C6H15N
reactant | pyridine-sulfur trioxide | 18.235 mmol, 2.902 g | C1=CC=NC=C1.O=S(=O)=O
solvent | dimethylsulfoxide | 12.0 mL | CS(=O)C | C2H6OS
product | 3-methyl-4′-trifluoromethyl-biphenyl-4-carbaldehyde | 1.221 g, 76% | CC=1C=C(C=CC1C=O)C1=CC=C(C=C1)C(F)(F)F | C15H11F3O
